US04348399
Prepared as described in Example 18, 10.0 g. of 4-(hexadecylamino)hydrocinnamoyl chloride hydrochloride in 80. ml. of methylene chloride is treated with 9.5 g. of 4-dimethylaminopyridine and 2.1 g. of 2-ethoxyethanol, analogous to the method of Example 19. Workup and filtration through alumina provides 2-ethoxyethyl 4-(hexadecylamino)hydrocinnamate.

reactant | 4-(hexadecylamino)hydrocinnamoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)Cl)C=C1
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-ethoxyethyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OCCOCC)C=C1 | C29H51NO3
